US07557221B2
The mixture of regioisomers from step 2 {[(S)-1-(2-amino-4-iodo-phenylcarbamoyl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester and [(S)-1-(2-amino-5-iodo-phenylcarbamoyl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester} (1.0 g, 2.08 mmol) were dissolved in glacial acetic acid (30 mL) and heated to 65° C. for 1 hour. The reaction was cooled, concentrated in vacuo, basified with 10% w/v aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate (2×20 mL). The organic extracts were combined, washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by chromatography over silica gel eluted with 20% v/v ethyl acetate/hexanes to give [(S)-1-(5-iodo-1H-benzoimidazol-2-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester as a mixture of tautomers (950 mg, 99%).

reactant | [(S)-1-(2-amino-4-iodo-phenylcarbamoyl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C(NC1=C(C=C(C=C1)I)N)=O)=O | C20H24IN3O3
reactant | [(S)-1-(2-amino-5-iodo-phenylcarbamoyl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C(NC1=C(C=CC(=C1)I)N)=O)=O | C20H24IN3O3
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | [(S)-1-(5-iodo-1H-benzoimidazol-2-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)I)=O | C20H22IN3O2
